US07442797B2
A tetrahydrofuran (20 ml) solution of 2-bromo-6-phenylpyridine (1.3 g, 5.5 mmol) was cooled to −78° C., then a hexane solution of n-butyllithium (3.5 ml, 1.58 M, 5.6 mmol) was dropwise added thereto while 20 minutes. The reaction mixture was additionally stirred at −78° C. for 1 hour, then a tetrahydrofuran (5 ml) solution of 2-formyl-6-phenylpyridine (1.0 g, 5.5 mmol) obtained by Reference Example 11 was dropwise added thereto while 10 minutes, the reaction temperature was allowed to warm to 0° C. while 30 minutes. Then the reaction mixture was poured into an aqueous ammonium chloride-saturated solution, an organic layer was separated, furthermore an aqueous layer was extracted with toluene. The organic layer was combined, and the solvent was distilled off, and the residue was purified by silica gel column chromatography and recrystallization, thereby obtaining 1.1 g of 1,1-bis(6-phenylpyridine-2-yl)methanol as white powder. Yield: 61.2%.

reactant | 2-bromo-6-phenylpyridine | 5.5 mmol, 1.3 g | BrC1=NC(=CC=C1)C1=CC=CC=C1 | C11H8BrN
reactant | hexane | CCCCCC | C6H14
reactant | n-butyllithium | 5.6 mmol, 1.58 M, 3.5 ml | C(CCC)[Li]
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-formyl-6-phenylpyridine | 5.5 mmol, 1.0 g | C(=O)C1=NC(=CC=C1)C1=CC=CC=C1 | C12H9NO
